US08030500B2
2-(3-Bromo-4-methoxybenzoyl)-6-fluorobenzonitrile
To a solution of copper(I) cyanide (1.746 g, 19.50 mmol) and lithium bromide (0.98 mL, 39 mmol) in anhydrous THF (40 mL), (2-cyano-3-fluorophenyl)zinc(II) iodide (0.5M in THF, 39 mL, 19.50 mmol) was added at −78° C. followed by addition of 3-bromo-4-methoxybenzoyl chloride (5.35 g, 21.45 mmol) in THF (40 mL). The reaction mixture was allowed to reach room temperature and stirred over night. Saturated aqueous NH4Cl (40 mL) was added and the resulting mixture was concentrated under reduced pressure. The residue was diluted with water (30 ml) and extracted with DCM (3×50 mL). The combined organic extracts were passed though a phase separator (Sorbent) and concentrated under reduced pressure. The residue was purified by flash column chromatography (0-60% ethyl acetate in heptane) to afford the title compound (3.5 g, 54%).

reactant | copper(I) cyanide | 19.50 mmol, 1.746 g | [Cu]C#N
reactant | lithium bromide | 39 mmol, 0.98 mL | [Br-].[Li+]
reactant | (2-cyano-3-fluorophenyl)zinc(II) iodide | 19.50 mmol, 0.5M, 39 mL | [I-].C(#N)C1=C(C=CC=C1F)[Zn+]
reactant | 3-bromo-4-methoxybenzoyl chloride | 21.45 mmol, 5.35 g | BrC=1C=C(C(=O)Cl)C=CC1OC | C8H6BrClO2
reactant | NH4Cl | 40 mL | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(3-Bromo-4-methoxybenzoyl)-6-fluorobenzonitrile | 3.5 g, 54% | BrC=1C=C(C(=O)C2=C(C#N)C(=CC=C2)F)C=CC1OC | C15H9BrFNO2
